US07259183B2
Preparation of 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide 126
91 mg (0.9 mmol) of N-methyl morpholine and then 170 mg (0.45 mmol) of HBTU were added to 59 mg (0.30 mol) of 5-chloro-1H-indol-7-carboxylic acid and 122 mg (0.33 mmol) of (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine dissolved in 3 ml DMF at rt under nitrogen. The reaction mixture was stirred at rt over night. Water was added and the reaction mixture was extracted twice with EtOAc. The combined organic layers were washed once with 1N aqueous HCl solution, once with saturated aqueous NaHCO3 solution and once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (20 g silica gel; heptane/EtOAc 4:1) to yield 150 mg (91%) product as a yellow viscous oil. MS (ISP) 547.3 (M+H)+.

reactant | N-methyl morpholine | 0.9 mmol, 91 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 0.45 mmol, 170 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-chloro-1H-indol-7-carboxylic acid | 0.30 mol, 59 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 0.33 mmol, 122 mg | C(C)(C)(C)C1=CC(=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C20H23ClF3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-2-chloro-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide | 150 mg, 91% | C(C)(C)(C)C1=CC(=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C29H27Cl2F3N2O
